Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
URETEROLITHIASIS
 
Major Surgical or Invasive Procedure:
Cystoscopy.  Left ureteral stent placement.

 
History of Present Illness:
Patient is a ___ female who presented to the ED with severe left 
flank pain found to have a 7 mm mid left ureteral stone and 
recent UTI. The patient first noted flank discomfort, hematuria, 
decreased urine output, and lower abdominal pain around 5 days 
ago. She was seen at an urgent care who diagnosed her with a UTI 
and started her on macrobid. Per the patient's report urine 
culture from that visit grew E. Coli. At that time she denies 
urgency, frequency, dysuria, fever, or chills. She reported 
feeling better over the subsequent days but then developed 
severe, ___, sharp left flank pain associated with gross
hematuria and nausea. She presented to the ___ ED where CT 
scan showed a 7mm left mid ureteral stone. The patient has no 
prior history of kidney stones. She has a history of 
hyperparathyroidism followed by endocrinology here at ___ last 
seen in ___. 
 
Past Medical History:
OSTEOPOROSIS                                                    
BREAST CANCER                                                   
VITAMIN D DEFICIENCY                                            
Hyperparathyroidism                             

H/O HYPERCALCEMIA     
TOTAL ABDOMINAL HYSTERECTOMY                                    
bilateral salpingoophorectomy                                   
ANKLE FRACTURE ORIF                                           

RIGHT RECTUS MUSCLE REMOVAL: 
due to fibromatosis                                             

LEFT ANKLE SURGERY                                              
arthroscopic and removal of hardware                            
Breast lumpectomy
 
Social History:
Marital status:     Married                                     
Children:           Yes                                         
Lives with:         Other: 2 small dogs                         
Work: ___
Tobacco use:        Former smoker                               
Tobacco Use         Quit off and on, none since ___            
Comments:                                                       
Smoking cessation   No                                          
counseling offered:                                             
Alcohol use:        Denies                                      
Alcohol use         rare                                        
comments:                                                       
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Exercise:           Activities: ___ 2x/week                      
Diet:               drinks milk - 2 glasses daily, yogurt in the
                    winter; high dose vitamin D weekly for 12   
                    weeks                                       

Comments:           1 cup coffee daily, occ tea    
 
Family History:
Mother    Living    ___  OSTEOPOROSIS                            
                        GRAVES DISEASE                          

Father    ___  ___  MYOCARDIAL                              
                        INFARCTION                              

Sister    Living    64  ALIVE AND WELL                          

Sister    Living    ___rother   ___  29  AIDS                                    

Daughter  Living    28  ALIVE AND WELL       MD/PhD at ___ Mass   

Daughter  Living    ___ at ___ 
                                             ___       
 
Physical Exam:
WDWN woman, nad, avss
abdomen soft, nt/nd
extremities w/out edema, pitting, pain
 
Pertinent Results:
___ 06:20AM BLOOD WBC-5.2 RBC-4.02 Hgb-11.7 Hct-35.8 MCV-89 
MCH-29.1 MCHC-32.7 RDW-13.2 RDWSD-43.0 Plt ___
___ 06:16AM BLOOD WBC-5.6 RBC-4.44 Hgb-12.6 Hct-38.8 MCV-87 
MCH-28.4 MCHC-32.5 RDW-13.1 RDWSD-41.9 Plt ___
___ 06:10PM BLOOD WBC-8.6 RBC-4.98 Hgb-14.1 Hct-42.7 MCV-86 
MCH-28.3 MCHC-33.0 RDW-13.2 RDWSD-40.6 Plt ___
___ 06:10PM BLOOD Neuts-59.7 ___ Monos-8.7 Eos-0.8* 
Baso-0.5 Im ___ AbsNeut-5.16 AbsLymp-2.60 AbsMono-0.75 
AbsEos-0.07 AbsBaso-0.04
___ 06:20AM BLOOD Glucose-105* UreaN-13 Creat-0.7 Na-144 
K-4.2 Cl-109* HCO3-27 AnGap-12
___ 06:16AM BLOOD Glucose-98 UreaN-13 Creat-0.6 Na-142 
K-3.8 Cl-108 HCO3-24 AnGap-14
___ 06:10PM BLOOD Glucose-97 UreaN-14 Creat-0.7 Na-139 
K-3.7 Cl-104 HCO3-24 AnGap-15
___ 06:20AM BLOOD Phos-4.3 Mg-1.8
___ 06:16AM BLOOD Calcium-9.4 Mg-1.8
___ 05:57PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:57PM URINE Blood-LG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 05:57PM URINE RBC-31* WBC-9* Bacteri-FEW Yeast-NONE 
Epi-<1

1.  A 4 x 7-mm left distal ureteral obstructing stone at the
level of the iliac vessels with a mild-to-moderate upstream
hydroureteronephrosis and fat stranding. 
2.  Sigmoid diverticulosis. 
3.  Sclerotic focus in the right femoral head has the appearance
of an enchondroma.  Correlation with older imaging to document
stability would prove 
useful if available. 

___ URINE URINE CULTURE-PENDING INPATIENT 

___ URINE URINE CULTURE-FINAL EMERGENCY WARD 

 
Brief Hospital Course:
Ms. ___ was admitted to urology service from the emergency 
department for nephrolithiasis management with a known left 
ureteral calculus in setting of recent urinary tract infection . 
She was started on empiric antibiotics and prepped for operative 
decompression. She was taken to the OR urgently on hospital day 
2 and underwent left ureteral stent placement. She tolerated the 
procedure well and recovered in the PACU before transfer to the 
general surgical floor. See the dictated operative note for full 
details. Overnight, the patient was hydrated with intravenous 
fluids and received appropriate perioperative prophylactic 
antibiotics. She had significant pain that required multiple 
medications to manage. On POD1, the urethral catheter was 
removed and she voided.  At discharge on POD1, patient’s pain 
was controlled with oral pain medications, tolerating regular 
diet, ambulating without assistance, and voiding without 
difficulty.  Ms. ___ was explicitly advised to follow up as 
directed as the indwelling ureteral stent must be removed and or 
exchanged. She has plans to visit ___ in the next weeks and 
is concerned about definitive stone management but will 
re-address this at follow-up. 
 
Medications on Admission:
Active Medication list as of ___:
OMEPRAZOLE - Dosage uncertain -  (Prescribed by Other Provider)
Medications - OTC
MULTIVIT-MIN-FA-LYCOPEN-LUTEIN [CENTRUM SILVER] - Centrum Silver
0.4 mg-300 mcg-250 mcg tablet. 1 tablet(s) by mouth once a day - 
(___)

Patient recorded as having no known allergies to drugs
 
Discharge Medications:
1. Cefpodoxime Proxetil 400 mg PO Q12H Duration: 10 Days 
RX *cefpodoxime 200 mg two tablet(s) by mouth twice a day Disp 
#*40 Tablet Refills:*0
2. Acetaminophen 650 mg PO Q6H:PRN pain 
3. Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg ONE capsule(s) by mouth DAILY 
Disp #*30 Capsule Refills:*0
4. Oxybutynin 5 mg PO TID bladder spasms 
RX *oxybutynin chloride 5 mg ONE tablet(s) by mouth Q8hrs Disp 
#*21 Tablet Refills:*0
5. Phenazopyridine 100 mg PO TID Duration: 3 Days 
RX *phenazopyridine [Pyridium] 100 mg ONE tablet(s) by mouth 
Q8hrs Disp #*15 Tablet Refills:*0
6. Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg one tablet(s) by mouth Q8hrs Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PREOPERATIVE DIAGNOSIS:  Left ureteral calculus.

POSTOPERATIVE DIAGNOSIS:  Left ureteral calculus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter.; This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-No vigorous physical activity or sports for 4 weeks, including 
sexual.  Avoid lifting/twistin/bending/pulling/pushing items 
weighing more than a ___ pounds. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated
 
Followup Instructions:
___